US04080335
7-Aminoethyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl) chroman hydrobromide
A solution of 7-cyanomethyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl) chroman (5.4g) and 10% palladium on charcoal (0.5g) in ethanol (75 ml) was hydrogenated at atmospheric pressure. The catalyst was removed by filtration and the filtrate evaporated under reduced pressure to give an oil which was treated with ethereal hydrogen bromide to give the title compound (4 g) as a very hygroscopic noncrystalline compound.

reactant | 7-cyanomethyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl) chroman | 5.4g | C(#N)COC1=CC=C2C(CC(OC2=C1)(C)C)C1=CC(=CC=C1)C(F)(F)F | C20H18F3NO2
reactant | hydrogen bromide | Br | BrH
catalyst | palladium on charcoal | 0.5g | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 7-Aminoethyloxy-2,2-dimethyl-4-(3-trifluoromethylphenyl) chroman hydrobromide | 4 g | Br.NCCOC1=CC=C2C(CC(OC2=C1)(C)C)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C20H22F3NO2.BrH/c1-19(2)12-17(13-4-3-5-14(10-13)20(21,22)23)16-7-6-15(25-9-8-24)11-18(16)26-19;/h3-7,10-11,17H,8-9,12,24H2,1-2H3;1H
